US07696352B2
A mixture of (2-(4-iodophenyl)-1-methyl-1H-imidazol-4-yl)methyl azide prepared above (46 mg, 0.14 mmol) and Ra—Ni (50% slurry in H2O, 100 mg) in MeOH (5 mL) was hydrogenated under balloon H2 for 1 h. It was filtered. The filtrate was concentrated in vacuo to give (2-(4-iodophenyl)-1-methyl-1H-imidazol-4-yl)methyl amine (42 mg). MS 314.0 (M+H).

reactant | (2-(4-iodophenyl)-1-methyl-1H-imidazol-4-yl)methyl azide | IC1=CC=C(C=C1)C=1N(C=C(N1)CN=[N+]=[N-])C | C11H10IN5
solvent | MeOH | 5 mL | CO | CH4O
catalyst | Ra—Ni | 100 mg | [Ni] | Ni
product | (2-(4-iodophenyl)-1-methyl-1H-imidazol-4-yl)methyl amine | 42 mg | IC1=CC=C(C=C1)C=1N(C=C(N1)CN)C | C11H12IN3
